US05547954
This compound is prepared in a manner analogous to that of Step D of Example 4, using 1.7 grams (0.008 mole) of 2-amino-5-bromo-3-cyano-4-methylpyridine, 2.7 grams (0.012 mole) of 5-chloro-2,2-dimethylbenzodioxolan-7-ylboronic acid, 4.3 grams (0.031 mole) of potassium carbonate and 0.3 gram of tetrakis(triphenylphosphine)palladium(0) in 150 mL of toluene, yielding 2-amino-3-cyano-4-methyl-5-(5-chloro-2,2-dimethylbenzodioxolan-7-yl)pyridine.

reactant | 2-amino-5-bromo-3-cyano-4-methylpyridine | 0.008 mole, 1.7 grams | NC1=NC=C(C(=C1C#N)C)Br | C7H6BrN3
reactant | 5-chloro-2,2-dimethylbenzodioxolan-7-ylboronic acid | 0.012 mole, 2.7 grams | ClC1=CC2=C(OC(O2)(C)C)C(=C1)B(O)O | C9H10BClO4
reactant | potassium carbonate | 0.031 mole, 4.3 grams | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.3 gram | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-amino-3-cyano-4-methyl-5-(5-chloro-2,2-dimethylbenzodioxolan-7-yl)pyridine | NC1=NC=C(C(=C1C#N)C)C1=CC(=CC2=C1OC(O2)(C)C)Cl | C16H14ClN3O2
